data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_333439_1,[C:1](/[C:3](=[C:2](\[N:4]([H:10])[H:11])[O:6][C:5](=[O:8])[H:12])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([O:7][H:9])[C:2]([N:4]([H:10])[H:11])([C:5](=[O:8])[H:12])[O:6]1)([H:13])([H:14])[H:15],55.99747250001286
MR_489925_0,[N:1](/[N:5]=[N:6]/[C:3](=[C:2](\[O:4][H:7])[H:10])[H:11])([H:8])[H:9]>>[N:1]([N:5]1[C:2]([O:4][H:7])([H:10])[C:3]([H:11])=[N:6]1)([H:8])[H:9],42.0676000000482
MR_465885_0,[C:1]([C:2](=[C:3]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])[O:6][H:8])([O:7][H:9])([H:14])[H:15]>>[C:1](=[C:2](/[C:3]([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:15])[O:6][H:8])(\[O:7][H:9])[H:14],72.85965250002903
MR_234154_0,[C:1](\[C:2]([H:12])([H:13])[H:14])(=[N:4]\[H:9])[C:5]([O:6][H:8])([N:7]([C:3]([H:15])([H:16])[H:17])[H:10])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([N:4]([H:9])[H:10])(/[C:5](=[N:7]/[C:3]([H:15])([H:16])[H:17])[H:11])[O:6][H:8],36.06995499996003
MR_244653_0,[C:1]([c:2]1[c:3]([O:6][H:8])[c:4]([H:9])[n:7][o:5]1)([H:10])([H:11])[H:12]>>[C:1]([C:2]([C@@:3]1([O:6][H:8])[C:4]([H:9])[N:7]1)=[O:5])([H:10])([H:11])[H:12],47.093247499986575
MR_487837_2,[C@@:1]([C:2]([C:3]([H:16])([H:17])[H:19])([C:4]([H:18])([H:20])[H:21])[H:11])([C:5]([C:7]([N:8][H:14])[H:15])=[O:9])([N:6]([H:12])[H:13])[H:10]>>[C@:1]([C:5]([C:2]([C:3]([H:16])([H:17])[H:19])([C:4]([H:18])([H:20])[H:21])[H:11])=[O:9])([N:6]([H:12])[H:13])(/[C:7](=[N:8]/[H:14])[H:15])[H:10],50.55014499999771
MR_127547_1,[C:1]1([C:4]([H:14])([H:15])[H:16])([C:5]([O:6][H:9])=[O:8])[C:2]([O:7][H:10])([H:11])[C:3]1([H:12])[H:13]>>[C:1]1([C:4]([H:14])([H:15])[H:16])=[C:5]([O:6][H:9])[O:8][C:2]([O:7][H:10])([H:11])[C:3]1([H:12])[H:13],45.59414999999049
MR_124257_1,[C:1](/[C:4]([N:2](/[C:6](=[N:8]\[H:13])[H:14])[H:10])=[C:3](\[N:5]([H:11])[H:12])[O:7][H:9])([H:15])([H:16])[H:17]>>[C:1](/[C:4](=[N:2]/[H:10])[C:3]([N:5]([H:11])[H:12])(/[C:6](=[N:8]\[H:13])[H:14])[O:7][H:9])([H:15])([H:16])[H:17],66.07763249999508
MR_79156_0,[C:1](/[C:4]([N:2]([C:3]([N:5]([H:9])[H:10])=[O:7])[H:8])=[N:6]\[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:4](=[N:6]\[H:11])[O:7]/[C:3](=[N:2]\[H:8])[N:5]([H:9])[H:10])([H:12])([H:13])[H:14],64.15999249998563
MR_68674_0,[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([O:4][O:5][H:7])([O:6][H:8])[H:9]>>[C:1]([O:4][C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([O:5][H:7])([O:6][H:8])[H:9],56.03386749999231
MR_240823_0,[C:1](/[C:3]([C:2](=[C:4]([H:12])[H:13])[O:5][H:7])=[N:6]/[H:8])([H:9])([H:10])[H:11]>>[C:1]([C:3]1=[C:2]([O:5][H:7])[C:4]([H:12])([H:13])[N:6]1[H:8])([H:9])([H:10])[H:11],54.53728000002556
MR_359402_1,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[H:8])(/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:7](/[N:6]([H:9])[H:10])[H:13])([H:11])[H:12]>>[C:1](=[C:5]([C:3]([H:17])([H:18])[H:19])[C:7]([N:4]([C:2]([H:14])([H:15])[H:16])[H:8])([N:6]([H:9])[H:10])[H:13])([H:11])[H:12],63.84687000002714
MR_650738_0,[C:1]([O:8][N:2]([N:4]([H:10])[H:11])/[C:6](=[C:7](\[C:3]([N:5]([H:12])[H:13])=[O:9])[H:15])[H:14])([H:16])([H:17])[H:18]>>[C:1]([O:8][C:3]1([N:5]([H:12])[H:13])[C:7](/[C:6](=[N:2]/[N:4]([H:10])[H:11])[H:14])([H:15])[O:9]1)([H:16])([H:17])[H:18],43.66207749998182
MR_300730_1,[C:1]([C:6]([C:2]([H:18])([H:19])[H:20])([C:4]([N:7]([H:12])[H:13])=[O:9])/[C:8](=[N:3]/[N:5]([H:10])[H:11])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6]([C:2]([H:18])([H:19])[H:20])=[C:8]([N:3]([C:4]([N:7]([H:12])[H:13])=[O:9])[N:5]([H:10])[H:11])[H:14])([H:15])([H:16])[H:17],70.37537999998776
MR_534272_1,[N:1]([C:2]([N:5]([H:12])[H:13])=[C:6]([H:14])[H:15])([N:4]([H:10])[H:11])[O:7][N:3]([H:8])[H:9]>>[N:1]([C:2](=[C:6]([H:14])[H:15])[O:7][N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[N:5]([H:12])[H:13],51.11803250002637
MR_445287_1,[C:1]12(/[C:5](=[N:8]\[H:11])[H:13])[C:4]([H:12])=[C:2]([N:3]([H:9])[H:10])[N:7]1[O:6]2>>[c:1]1(/[C:5](=[N:8]\[H:11])[H:13])[c:4]([H:12])[c:2]([N:3]([H:9])[H:10])[n:7][o:6]1,18.09835499999835
MR_679253_2,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([C:2]([H:12])([H:13])[H:14])=[O:8])=[O:7])([C:6](=[O:9])[H:11])[H:10]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[C:4](\[C:6](=[O:9])[H:11])[O:7][C:5]([C:2]([H:12])([H:13])[H:14])=[O:8])[H:10],71.72513249996854
MR_584497_0,[C:1](/[C:5](=[C:4]([C:6](/[C:2]([H:17])([H:18])[H:19])=[C:8](\[C:3]([H:20])([H:21])[H:22])[H:13])\[O:9][H:10])[N:7]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:5]1([N:7]([H:11])[H:12])[C:4]([O:9][H:10])=[C:6]([C:2]([H:17])([H:18])[H:19])[C:8]1([C:3]([H:20])([H:21])[H:22])[H:13])([H:14])([H:15])[H:16],47.55257750000396
MR_642488_0,[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[N:8][C:5](=[C:3]([O:6][H:10])[O:7][H:9])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1([C:2]([H:15])([H:16])[H:17])[C:3]([O:6][H:10])([O:7][H:9])[C:5]([H:11])=[N:8]1)([H:12])([H:13])[H:14],47.34236499996399
MR_663506_1,[C:1]([O:5][N:7](/[C:3](=[N:2]\[H:9])[N:4]([H:10])[H:11])[O:6][H:8])([H:12])([H:13])[H:14]>>[C:1]([O:5][N:2](/[C:3]([N:4]([H:10])[H:11])=[N:7]/[O:6][H:8])[H:9])([H:12])([H:13])[H:14],49.77580999999091
